US06174884B1
6-(4-bromo-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
Starting from 2.1 g (6.95 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 4.05 mg (17.38 mmol) of 4-bromophenylacetyl chloride, the title compounds are prepared analogously to the protocol of Example 13. This gives 594 mg (18%) of the diastereomer which elutes more rapidly, M.p.: 117° C., and 372 mg (11%) of the diastereomer which elutes more slowly, M.p.: 116° C.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 6.95 mmol, 2.1 g | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 4-bromophenylacetyl chloride | 17.38 mmol, 4.05 mg | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
product | 6-(4-bromo-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | BrC1=CC=C(CC=2NC(C3=C(N2)N(N=C3)C(CCCC3=CC=CC=C3)C(C)O)=O)C=C1 | C24H25BrN4O2
